US08008327B2
Indazole-4-carboxylic acid (2.00 g, 12.3 mmol) was suspended in methanol (20 mL) and toluene (30 mL) at room temperature. A solution of 2 M trimethylsilyl diazomethane (12 mL, 24 mmol) in toluene was added slowly and the mixture was stirred at room temperature until the solution turned yellow. The reaction was quenched with concentrated acetic acid (5 mL) and the solvent was removed in vacuo. The residue was purified by silica gel chromatography eluting with a gradient of 0-30% ethyl acetate in hexanes to afford 1H-indazole-4-carboxylic acid methyl ester.

reactant | Indazole-4-carboxylic acid | 12.3 mmol, 2.00 g | N1N=CC=2C(=CC=CC12)C(=O)O | C8H6N2O2
reactant | trimethylsilyl diazomethane | 24 mmol, 2 M, 12 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 20 mL | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 1H-indazole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=NNC2C=CC1 | C9H8N2O2
